US06211234B1
A stirred solution of 3-cyanophenol (20 g) in dry N,N-dimethylformamide (200 mL) is treated with sodium hydride (5.6 g; 60% dispersion in mineral oil), portionwise during 40 minutes, followed by dropwise addition of benzyl bromide (20 mL). The mixture is heated at 90° C. for 4 hours, cooled and concentrated under reduced pressure. The residue is partitioned between ethyl acetate and water and the organic layer washed with 1 N sodium hydroxide (100 mL) followed by drying over magnesium sulphate and concentration. The residue is recrystallised from methanol to give 3-benzyloxybenzonitrile (24 g), in the form of a cream solid, m.p. 38-40° C.

reactant | 3-cyanophenol | 20 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | sodium hydride | 5.6 g | [H-].[Na+]
reactant | benzyl bromide | 20 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 3-benzyloxybenzonitrile | 24 g | C(C1=CC=CC=C1)OC=1C=C(C#N)C=CC1 | C14H11NO
